US20010007867A1
7-(1 -Ethyl-propylamino)-1,5-dimethyl-3-(2,4,6-trimethyl-phenyl)-1H-pyrrolo[3,2-b]-pyridine-6-carboxylic acid
A mixture of 7-(1-ethyl-propylamino)-1,5-dimethyl-3(2,4,6trimethyl-phenyl)-1H-pyrrolo[3,2-b]pyridine-6-carboxylic acid methyl ester and NaOH in a 1:1 mixture of MeOH/water was heated at reflux over night. The resulting mixture was acidified with 2N HCl to a pH of 4-5, and extracted with chloroform. The organic layer was dried and concentrated to give the title compound.

reactant | 7-(1-ethyl-propylamino)-1,5-dimethyl-3(2,4,6trimethyl-phenyl)-1H-pyrrolo[3,2-b]pyridine-6-carboxylic acid methyl ester | COC(=O)C=1C(=C2C(=NC1C)C(=CN2C)C2=C(C=C(C=C2C)C)C)NC(CC)CC | C25H33N3O2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | MeOH water | CO.O
product | 7-(1 -Ethyl-propylamino)-1,5-dimethyl-3-(2,4,6-trimethyl-phenyl)-1H-pyrrolo[3,2-b]-pyridine-6-carboxylic acid | C(C)C(CC)NC1=C2C(=NC(=C1C(=O)O)C)C(=CN2C)C2=C(C=C(C=C2C)C)C | C24H31N3O2
